US07279580B2
2-Bromo-6-fluorobenzonitrile and 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane were coupled following the procedure in Example 2 to afford 3,2′-difluoro-5′-nitrobiphenyl-2-carbonitrile as a black solid: δH (360 MHz, CDCl3) 7.32-7.44 (3H, m), 7.71-7.77 (1H, m), 8.35-8.41 (2H, m).

reactant | 2-Bromo-6-fluorobenzonitrile | BrC1=C(C#N)C(=CC=C1)F | C7H3BrFN
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
product | 3,2′-difluoro-5′-nitrobiphenyl-2-carbonitrile | FC1=C(C(=CC=C1)C1=C(C=CC(=C1)[N+](=O)[O-])F)C#N | C13H6F2N2O2
